### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix/GeneralLinearGroup/Card): add the theorem on the cardinality of the special linear group over a commring and over a finite field

### PR DESCRIPTION
**Pull request by Nicola9Falciola**
Add the theorems about the cardinality of the special linear group over a ring, both the exact formula and the _mul version and the version for a finite field. Building on the definition from the previous PR on the identification of `SL` with `det.ker`. 

- [x] depends on: #41855

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Card.lean [hunk 1]
```diff
@@ -61,6 +61,24 @@ end LinearIndependent
 
 namespace Matrix
 
+namespace SpecialLinearGroup
+
+variable {n : Type*} [Fintype n] [DecidableEq n] {R : Type*} [CommRing R]
+
+theorem card_SL_mul [Nonempty n] :
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Card.lean]: Could you put the [Nonempty n] with the other variales?

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 2]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
 lemma coe_GL_coe_matrix (g : SpecialLinearGroup n R) : ((toGL g) : Matrix n n R) = g := rfl
 
+lemma toGL_range :
+  (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
+  ext A
+  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA => ⟨⟨_,
+    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
+      Units.ext rfl⟩⟩
+
+/-- `Matrix.SpecialLinearGroup` is eqquivalent to `GeneralLinearGroup.det.ker` -/
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]:
```suggestion
/-- `Matrix.SpecialLinearGroup` is isomorphic to `GeneralLinearGroup.det.ker` -/
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Card.lean [hunk 3]
```diff
@@ -61,6 +61,24 @@ end LinearIndependent
...
+    Subgroup.card_top, Nat.card_congr (toGLKerEquiv).toEquiv]
+    using (Subgroup.card_mul_index (GeneralLinearGroup.det : GL n R →* Rˣ).ker)
+
+/-- The cardinal of the special linear group for a commutative ring -/
+theorem card_SL [Nonempty n] [Finite Rˣ] :
+  Nat.card (SpecialLinearGroup n R) = Nat.card (GL n R) / Nat.card Rˣ :=
+  Nat.eq_div_of_mul_eq_right (Nat.card_ne_zero.mpr ⟨instNonemptyOfInhabited, by grind⟩)
+    (by simpa [mul_comm] using card_SL_mul)
+
+end SpecialLinearGroup
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Card.lean]: A few things on this block, bundled into one suggestion (verified to build). To be clear, some of these are suggested by Fable and part of this comment it written by Fable (I (Chris) am not usually this robotic!) but I think they make sense.

- `card_GL_field`/`card_SL_field` below live in the plain `Matrix` namespace, so putting these two in `Matrix.SpecialLinearGroup` is inconsistent with the rest of the file and makes the `SL` in the names redundant (`Matrix.SpecialLinearGroup.card_SL_mul`). A `section` keeps the `variable` scoping.
- `_mul` alone doesn't say what is being multiplied: compare `Subgroup.card_mul_index`, which names both factors, so e.g. `card_SL_mul_card_units`.
- `instNonemptyOfInhabited` is an auto-generated instance name (fragile to refer to by hand), and the `by grind` is only re-finding the `Finite Rˣ` instance that is already in scope; `Nat.card_pos.ne'` does the whole job.
- Continuation lines of a statement should be indented 4 spaces (as elsewhere in this file), the first theorem should also get a docstring, and there are a few redundant parentheses.
- This also folds `[Nonempty n]` into the `variable` line (see the other comment).

```suggestion
section SpecialLinearGroup

variable {n : Type*} [Fintype n] [DecidableEq n] [Nonempty n] {R : Type*} [CommRing R]

/-- The cardinal of the special linear group times the cardinal of the unit group is the
cardinal of the general linear group. -/
theorem card_SL_mul_card_units :
    Nat.card (SpecialLinearGroup n R) * Nat.card Rˣ = Nat.card (GL n R) := by
  simpa [Subgroup.index_ker, MonoidHom.range_eq_top.mpr GeneralLinearGroup.det_surjective,
    Subgroup.card_top, Nat.card_congr SpecialLinearGroup.toGLKerEquiv.toEquiv]
    using Subgroup.card_mul_index (GeneralLinearGroup.det : GL n R →* Rˣ).ker

/-- The cardinal of the special linear group over a commutative ring with finitely many
units. -/
theorem card_SL [Finite Rˣ] :
    Nat.card (SpecialLinearGroup n R) = Nat.card (GL n R) / Nat.card Rˣ :=
  Nat.eq_div_of_mul_eq_right Nat.card_pos.ne'
    (by simpa [mul_comm] using card_SL_mul_card_units)

end SpecialLinearGroup
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Card.lean [hunk 4]
```diff
@@ -92,6 +110,11 @@ theorem card_GL_field :
     Module.finrank_fintype_fun_eq_card, Fintype.card_fin]
   simp only [Module.finrank_fintype_fun_eq_card, Fintype.card_fin, le_refl]
 
+/-- The cardinal of the special linear group over a finite field. -/
+theorem card_SL_field [NeZero n] :
+  Nat.card (SpecialLinearGroup (Fin n)  𝔽) = (∏ i : Fin n, (q ^ n - q ^ (i : ℕ))) / (q - 1) := by
+  simp [SpecialLinearGroup.card_SL, card_GL_field, Nat.card_units]
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Card.lean]: There is a stray double space in `(Fin n)  𝔽`, and the continuation line should be indented 4 spaces. (The unqualified `card_SL` assumes the namespace change suggested above; keep `SpecialLinearGroup.card_SL` otherwise.)

```suggestion
theorem card_SL_field [NeZero n] :
    Nat.card (SpecialLinearGroup (Fin n) 𝔽) = (∏ i : Fin n, (q ^ n - q ^ (i : ℕ))) / (q - 1) := by
  simp [card_SL, card_GL_field, Nat.card_units]
```

Could you also add a bullet for `Matrix.card_SL_field` to the "Main statements" list in the module docstring at the top of the file?

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 5]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
 @[simp]
 lemma coe_GL_coe_matrix (g : SpecialLinearGroup n R) : ((toGL g) : Matrix n n R) = g := rfl
 
+lemma toGL_range :
+  (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
+  ext A
+  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA => ⟨⟨_,
+    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
+      Units.ext rfl⟩⟩
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: Heads-up: `Matrix.SpecialLinearGroup.range_toGL` already exists (in `Mathlib/Topology/Algebra/Group/Matrix.lean`) for the Set-level statement `Set.range toGL = det ⁻¹' {1}`, so having `toGL_range` for the subgroup-level fact in the same namespace would be confusing — and mathlib's usual word order is `range_foo` anyway. Since the short name is taken, something like `range_toGL_eq_ker_det` works. The proof is unchanged apart from the 4-space continuation indent and `↦` in place of `=>`.

With the suggestion on `toGLKerEquiv` below, this lemma is no longer needed for the definition, but it is still worth keeping as API.

```suggestion
lemma range_toGL_eq_ker_det :
    (toGL : SpecialLinearGroup n R →* GL n R).range = GeneralLinearGroup.det.ker := by
  ext A
  exact ⟨by rintro ⟨_, rfl⟩; simp, fun hA ↦ ⟨⟨_,
    (by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val hA)⟩,
      Units.ext rfl⟩⟩
```

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 6]
```diff
@@ -278,6 +278,19 @@ theorem coeToGL_det (g : SpecialLinearGroup n R) :
...
+
+/-- `Matrix.SpecialLinearGroup` is eqquivalent to `GeneralLinearGroup.det.ker` -/
+noncomputable def toGLKerEquiv :
+  SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker :=
+  (MonoidHom.ofInjective toGL_injective).trans
+    (MulEquiv.subgroupCongr toGL_range)
```
Comment (CBirkbeck) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean]: This doesn't need to be `noncomputable`: with an explicit inverse it is computable. This should work together with the other suggestions.

```suggestion
def toGLKerEquiv : SpecialLinearGroup n R ≃* (GeneralLinearGroup.det : GL n R →* Rˣ).ker where
  toFun g := ⟨toGL g, coeToGL_det g⟩
  invFun A := ⟨A.val.val, by simpa [GeneralLinearGroup.val_det_apply] using congrArg Units.val A.2⟩
  left_inv g := rfl
  right_inv A := Subtype.ext (Units.ext rfl)
  map_mul' g h := Subtype.ext (Units.ext rfl)
```

**Review by CBirkbeck — COMMENTED** [review]
Other than these nits I think it looks good, thanks for doing this!

**Comment by Nicola9Falciola** [comment]
Thank you for the suggestions, I have implemented them all.

**Comment by CBirkbeck** [comment]
If you can fix the merge conflict, we can then ping a maintainer to get them to put this in the queue

**Comment by CBirkbeck** [comment]
@riccardobrasca could you have a look at this, I think its good to go.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
